US06462198B1
N-[1,3,4]Oxadiazol-2-yl-2,2-diphenyl-acetamide.
The title compound, light yellow solid, m.p. 131-132° C. and MS: m/e=279.2 (M+) was prepared in accordance with the general method of example 44a from [1,3,4]oxadiazol-2-ylamine and 2,2-diphenylacetic acid chloride.

reactant | [1,3,4]oxadiazol-2-ylamine | O1C(=NN=C1)N | C2H3N3O
reactant | 2,2-diphenylacetic acid chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
product | N-[1,3,4]Oxadiazol-2-yl-2,2-diphenyl-acetamide | O1C(=NN=C1)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C16H13N3O2
